### PR TITLE
adjust deprecated notes

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

Some deprecated notes seemed to refer to older namings.

##### Things done/to do

~~- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`~~
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/normedtype.v [hunk 1]
```diff
@@ -1666,7 +1666,7 @@ Lemma cvgr_dist_lt {T} {F : set (set T)} {FF : Filter F} (f : T -> V) (y : V) :
 Proof. by move=> /cvgrPdist_lt. Qed.
 
 #[deprecated(since="mathcomp-analysis 0.6.0",
-  note="use `cvg_dist_lt` or a variation instead")]
```
Comment (CohenCyril) [inline theories/normedtype.v:1669]: Yes you are right

File: theories/normedtype.v [hunk 2]
```diff
@@ -1764,7 +1764,7 @@ Arguments cvgr0_norm_le {_ _ _ F FF}.
   H : x \is_near _ |- _ => near: x; exact: cvgr0_norm_le end : core.
 
 #[deprecated(since="mathcomp-analysis 0.6.0",
-  note="use `cvgrPdist_lt` or a variation instead")]
+  note="use `fcvgrPdist_lt` or a variation instead")]
```
Comment (CohenCyril) [inline theories/normedtype.v:1767]: No, that was correct, I want to encourage the use of `cvgrPdist_lt` instead.

File: theories/normedtype.v [hunk 3]
```diff
@@ -2483,7 +2483,7 @@ by move=> xlt ylt; rewrite -[y]opprK (@distm_lt_split 0) ?subr0 ?opprK ?add0r.
 Qed.
 
 #[deprecated(since="mathcomp-analysis 0.6.0",
-  note="use `cvgPdist_le` or a variation instead")]
+  note="use `cvgrPdist_le` or a variation instead")]
```
Comment (CohenCyril) [inline theories/normedtype.v:2486]: Yes, you are right

File: theories/normedtype.v [hunk 4]
```diff
@@ -2788,7 +2788,7 @@ Lemma cvgr_dist_lt2 {I J} {F : set (set I)} {G : set (set J)}
 Proof. by rewrite cvgr_dist_lt2P. Qed.
 
 #[deprecated(since="mathcomp-analysis 0.6.0",
-note="use `cvgr_dist_lt2` or a variant instead")]
+note="use `cvgr_dist_lt2P` or a variant instead")]
 Lemma cvg_dist2 {F : set (set U)} {G : set (set V)}
```
Comment (CohenCyril) [inline theories/normedtype.v:2792]: No, I really meant `cvgr_dist_lt2` why did you think otherwise?

File: theories/normedtype.v [hunk 5]
```diff
@@ -2801,7 +2801,7 @@ Arguments cvgr_dist_lt2P {_ _ _ _ _ F G FF FG}.
 Arguments cvgr_dist_lt2 {_ _ _ _ _ F G FF FG}.
 
 #[deprecated(since="mathcomp-analysis 0.6.0",
-note="use `cvgr_dist_lt2P` or a variant instead")]
+note="use `fcvgr_dist_lt2P` or a variant instead")]
```
Comment (CohenCyril) [inline theories/normedtype.v:2804]: No, that was correct, I want to encourage the use of `cvgr_dist_lt2P` instead.
However the latter and all the `2` family should actually be renamed `cvgr2Pdist_lt` and so on...

File: theories/sequences.v [hunk 6]
```diff
@@ -391,7 +391,7 @@ Lemma cvgNpinfty u_ : (- u_ --> +oo) = (u_ --> -oo).
 Proof. exact/propeqP/cvgNry. Qed.
 
 #[deprecated(since="mathcomp-analysis 0.6.0",
-  note="use `cvgrNyN` instead")]
+  note="use `cvgNrNy` instead")]
```
Comment (CohenCyril) [inline theories/sequences.v:394]: Yes good catch!

**Review by CohenCyril — CHANGES_REQUESTED** [review]
Good job at spotting this! The changelog must be fixed accordingly.

File: theories/normedtype.v (hunk 4 above)
Comment (affeldt-aist) [reply theories/normedtype.v:2792]: I was actually wondering since this very proof is actually using `cvgr_dist_lt2P` even though it is not essential.

File: CHANGELOG_UNRELEASED.md [hunk 7]
```diff
@@ -383,14 +383,14 @@
...
   + `cvg_distP` (use `cvgrPdist_lt` or a variation instead),
   + `cvg_dist` (use `cvg_dist_lt` or a variation instead),
-  + `cvg_distW` (use `cvgPdist_le` or a variation instead),
+  + `cvg_distW` (use `cvgrPdist_le` or a variation instead),
   + `cvg_bounded_real` (use `cvgr_norm_lty` or a variation instead),
   + `continuous_cvg_dist` (simply use the fact that `(x --> l) -> (x = l)`),
-  + `cvg_dist2P` (use `cvgr_dist_lt2P` or a variant instead),
-  + `cvg_dist2` (use `cvgr_dist_lt2` or a variant instead),
+  + `cvg2distP` (use `cvgr2dist_ltP` or a variant instead),
+  + `cvg2dist` (use `cvgr2dist_lt` or a variant instead),
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:390]:
```suggestion
  + `cvg_dist2P` (use `cvgr2dist_ltP` or a variant instead),
  + `cvg_dist2` (use `cvgr2dist_lt` or a variant instead),
```
